US08563565B2
(4) Synthesis of t-butyl 1-(1,4-dioxepan-6-yl)hydrazinecarboxylate
Methylhydrazine (0.21 mL) was added dropwise to a solution of t-butyl 1,4-dioxepan-6-yl(1,3-dioxoisoindolin-2-yl)carbamate (710 mg) in THF (7 mL) over 1 minute. The reaction mixture was stirred at room temperature for 3 days and further stirred at 50° C. for 11 hours. After the reaction mixture was returned to room temperature, the insoluble matter was removed from the reaction mixture by filtration. The filtrate was concentrated under reduced pressure. After toluene was added to the residue, precipitated solid was removed by filtration, The filtrate was purified by silica gel column chromatography (ethyl acetate/n-heptane, 15% to 25%) to give the title compound (393 mg).

reactant | Methylhydrazine | 0.21 mL | CNN | CH6N2
reactant | t-butyl 1,4-dioxepan-6-yl(1,3-dioxoisoindolin-2-yl)carbamate | 710 mg | O1CCOCC(C1)N(C(OC(C)(C)C)=O)N1C(C2=CC=CC=C2C1=O)=O | C18H22N2O6
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | t-butyl 1-(1,4-dioxepan-6-yl)hydrazinecarboxylate | 393 mg | O1CCOCC(C1)N(N)C(=O)OC(C)(C)C | C10H20N2O4
